US07452911B2
3.54b N-(4-iodo-phenyl)-2-pyrrolidin-1-yl-acetamide
1.53 mL (18.6 mmol) pyrrolidine are added to a solution of 2.20 g (7.45 mmol) 2-chloro-N-(4-iodo-phenyl)-acetamide in 50 mL DCM. The reaction solution is stirred overnight at RT. The mixture is filtered, the filtrate dried over MgSO4 and the solvent is eliminated i.vac.

reactant | pyrrolidine | 18.6 mmol, 1.53 mL | N1CCCC1 | C4H9N
reactant | 2-chloro-N-(4-iodo-phenyl)-acetamide | 7.45 mmol, 2.20 g | ClCC(=O)NC1=CC=C(C=C1)I | C8H7ClINO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(4-iodo-phenyl)-2-pyrrolidin-1-yl-acetamide | IC1=CC=C(C=C1)NC(CN1CCCC1)=O | C12H15IN2O
